US07842694B2
3-{[5-(Azetidin-1-ylcarbonyl)pyridin-2-yl]oxy}-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(3-methyl-1,2,4-thiadiazol-5-yl)benzamide
A mixture of 3-hydroxy-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(3-methyl-1,2,4-thiadiazol-5-yl)benzamide (237 mg, 0.77 mmol), 5-(azetidin-1-ylcarbonyl)-2-chloropyridine (151 mg, 0.77 mmol) and potassium carbonate (213 mg, 1.54 mmol) in acetonitrile (5 mL) was stirred in a microwave reactor at 140° C. for 5 hours and at 160° C. for 10 hours. The mixture was reduced in vacuo and ethyl acetate (50 mL) added. The mixture was washed with water (50 mL), brine (50 mL), dried (MgSO4), and reduced in vacuo to give a brown oil which was chromatographed on silica, eluting with 0-10% methanol in ethyl acetate, to give the desired compound as a white foam (64 mg).

reactant | 3-hydroxy-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(3-methyl-1,2,4-thiadiazol-5-yl)benzamide | 0.77 mmol, 237 mg | OC=1C=C(C(=O)NC2=NC(=NS2)C)C=C(C1)O[C@H](CO)C | C13H15N3O4S
reactant | 5-(azetidin-1-ylcarbonyl)-2-chloropyridine | 0.77 mmol, 151 mg | N1(CCC1)C(=O)C=1C=CC(=NC1)Cl | C9H9ClN2O
reactant | potassium carbonate | 1.54 mmol, 213 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-{[5-(Azetidin-1-ylcarbonyl)pyridin-2-yl]oxy}-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(3-methyl-1,2,4-thiadiazol-5-yl)benzamide | 64 mg | N1(CCC1)C(=O)C=1C=CC(=NC1)OC=1C=C(C(=O)NC2=NC(=NS2)C)C=C(C1)O[C@H](CO)C | C22H23N5O5S
